2165-07-19 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2165-7-18**] 08:00 PM
 MULTI LUMEN - START [**2165-7-18**] 08:00 PM
 INVASIVE VENTILATION - START [**2165-7-18**] 08:00 PM
 EKG - At [**2165-7-19**] 04:00 AM
   Patient became persistently tachycardic overnight. Received 2L of LR
   without improvement. Hematocrit stable and no sign of abdominal
   distention or rigidity. Afebrile.  EKG sinus tach without sign of right
   heart strain, S1Q3T3. Not on venodynes overnight. Sent for CTA in AM.
   Spiked Temp this AM, Cultures sent.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-7-19**] 12:13 AM
   Midazolam (Versed) - [**2165-7-19**] 12:13 AM
   Fentanyl - [**2165-7-19**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-19**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 132 (78 - 132) bpm
   BP: 113/67(82) {98/57(63) - 138/80(106)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 7 (3 - 10)mmHg
   Total In:
                                                                  5,716 mL
                                                                  2,817 mL
   PO:
   TF:
   IVF:
                                                                  4,516 mL
                                                                  2,817 mL
   Blood products:
                                                                  1,200 mL
   Total out:
                                                                    385 mL
                                                                    465 mL
   Urine:
                                                                    385 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,331 mL
                                                                  2,352 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 425 (425 - 425) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 19 cmH2O
   Plateau: 8 cmH2O
   SpO2: 98%
   ABG: 7.37/34/146/19/-4
   Ve: 7.3 L/min
   PaO2 / FiO2: 365
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   224 K/uL
   11.1 g/dL
   121 mg/dL
   0.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   6 mg/dL
   109 mEq/L
   137 mEq/L
   33.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2165-7-18**]  08:14 PM
                             [**2165-7-18**]  08:16 PM
                             [**2165-7-19**]  04:00 AM
                             [**2165-7-19**]  04:11 AM
                             [**2165-7-19**]  04:55 AM
   WBC
   4.6
   8.6
   Hct
   34.0
   36
   33.4
   Plt
   201
   224
   Cr
   0.3
   0.4
   0.4
   TCO2
   19
   20
   Glucose
   104
   121
   Other labs: PT / PTT / INR:14.2/28.2/1.2, Differential-Neuts:79.0 %,
   Band:5.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Ca++:6.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   44 yo W with new diagnosis of advanced ovarian ca with peritoneal
   seeding admitted with small bowel obstruction now s/p tumor debulking,
   TAH BSO and partial resection of small bowel and sigmoid, POD #1, now
   with persistent tachycardia overnight.
   Tachycardia: Sinus tachycardia with rates stable in 130s.
   Hemodynamically stable. Rate minimally responsive to fluids. Afebrile
   overnight so not due to fever. However, spiked temp this morning. Hct
   stable and no signs of acute blood loss. Increased fentanyl and versed
   without improvement. Not wearing boots overnight and given malignancy
   and recent surgical procedure, high suspicion for PE. EKG without
   evidence  of R heart strain or S1Q3T3. Sats good but large A-a
   gradient.  Sent d dimer overnight. Likely will be positive, but if
   negative low likelihood of PE. However, given high level of concern
   will  send for CTA.
   - stat CTA
   - start heparin SC and pneumoboots
   - Fluid boluses PRN
   - Pain control
   - start empiric coverage with amp cipro flagyl
   Fevers: Spiked high temp raising suspicion that this is infectious
   rather than post op atelectasis.
   - f/u pan culture
   - f/u surgery recs
   - start empiric coverage as above
   .
   Hypotension: Large blood loss intraop and transiently on neo gtt.
   Hypotension likely secondary to hypovolemia in setting of blood loss
   and fluid shifts. Overnight BP has been stable off pressors. Urine
   output 45-80cc/hr. Received 2L of LR for tachycardia.
   - IVF boluses PRN
   - Consider levophed if MAP less than 60 or low urine output
   - monitor HCT
   - Aline in place
   .
   Respiratory: Intubated in setting of large dose narcotics for airway
   protection. Will maintain intubation while sending down for CTA. If
   negative for PE, will attempt extubation.
   - Wean sedation in AM
   - SBT and extubation if stable
   Adenocarcinoma: Extensive disease s/p debulking
   - F/U gyn onc recs
   - F/U surgery recs
   - keep NPO with NG tube to suction
   - Titrate pain control with fentanyl while sedated
   .
   .
   Non gap metabolic acidosis/Respiratory Acidosis: HC03 of 15, pC02 of
   35, expected 30 therefore mixed picture. Respiratory acidosis likely
   secondary to narcotics. Added on lactate and feel that acidosis more
   likely AG secondary to hypotension. Causes of non gap metabolic seem
   unlikely in this patient but include diarrhea, RTA, possible fistula.
   - monitor lytes
   .
   FEN: NPO, replete lytes PRN; IVFs; nutrition recs for TPN
   .
   ACCESS: A-line, R IJ
   .
   Contact: Family [**Telephone/Fax (1) 3133**]
   .
   CODE: FULL
   .
   DISPO: ICU overnight; if stable, will extubate and call out tomorrow
   .
   [**First Name8 (NamePattern2) 153**] [**Last Name (NamePattern1) 2957**] [**Doctor Last Name 3134**], *[**Numeric Identifier 3135**]
   Medicine Intern
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-7-18**] 08:00 PM
   Multi Lumen - [**2165-7-18**] 08:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2165-07-19 09:27:00 Physician Attending Progress Note
Chief Complaint: hypotension post op
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Overnight events
   Tachycardic to 130's at 2AM - Rx with 2 L IVF, HCT stable, Rx with
   fentanyl
   Concern raised for PE, ECG with sinus tach, sent for CTA this AM
   24 Hour Events:
 ARTERIAL LINE - START [**2165-7-18**] 08:00 PM
 MULTI LUMEN - START [**2165-7-18**] 08:00 PM
 INVASIVE VENTILATION - START [**2165-7-18**] 08:00 PM
 EKG - At [**2165-7-19**] 04:00 AM
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-7-19**] 12:13 AM
   Fentanyl - [**2165-7-19**] 12:13 AM
   Heparin Sodium (Prophylaxis) - [**2165-7-19**] 06:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-19**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 132 (78 - 133) bpm
   BP: 107/63(78) {98/57(63) - 138/80(106)} mmHg
   RR: 17 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 77.8 kg
   CVP: 9 (3 - 10)mmHg
   Total In:
                                                                  5,716 mL
                                                                  3,198 mL
   PO:
   TF:
   IVF:
                                                                  4,516 mL
                                                                  3,198 mL
   Blood products:
                                                                  1,200 mL
   Total out:
                                                                    385 mL
                                                                    540 mL
   Urine:
                                                                    385 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,331 mL
                                                                  2,658 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 344 (344 - 425) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 15 cmH2O
   Plateau: 8 cmH2O
   SpO2: 96%
   ABG: 7.37/34/146/19/-4
   Ve: 8.3 L/min
   PaO2 / FiO2: 365
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement
   Labs / Radiology
   11.1 g/dL
   224 K/uL
   121 mg/dL
   0.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   6 mg/dL
   109 mEq/L
   137 mEq/L
   33.4 %
   8.6 K/uL
        [image002.jpg]
                             [**2165-7-18**]  08:14 PM
                             [**2165-7-18**]  08:16 PM
                             [**2165-7-19**]  04:00 AM
                             [**2165-7-19**]  04:11 AM
                             [**2165-7-19**]  04:55 AM
   WBC
   4.6
   8.6
   Hct
   34.0
   36
   33.4
   Plt
   201
   224
   Cr
   0.3
   0.4
   0.4
   TCO2
   19
   20
   Glucose
   104
   121
   Other labs: PT / PTT / INR:14.2/28.2/1.2, Differential-Neuts:79.0 %,
   Band:5.0 %, Lymph:8.0 %, Mono:8.0 %, Eos:0.0 %, D-dimer:2834 ng/mL,
   Lactic Acid:1.0 mmol/L, Ca++:6.5 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   ECG: sinus tach at 120, normal axis, TWI in V1-V3
   Assessment and Plan
   44 yo W with recent diagnosis of mullerian adenocarcinomas/p OR for
   debulking and SBO.
   1. Hemodynamics: tachycardia persist but hypotension has improved after
   bolus with LR.  DDx fever with early SIRS, mild hypovolemia, fevers,
   Follow up on CTA, improve pain control, bolus for CVP less than 8.
   In light of fevers will Rx with Vanco, Levo Flagyl in consultation with
   surgery.
   2. Resp Failure: hypoxemic likely due to biilat effussions and
   consolidation. Now on PSV 10/5, will wean to [**6-10**] and check SBT,
   possible extubation later but will need to convert to fent PCA
   3. Post op: NPO, nutrition consult for TPN,
   4. Aline/RIJ#2
   5. boots/sq heparin
   Remaining issues as per housestaff notes
   ICU Care
   Nutrition: plan for TPN
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-7-18**] 08:00 PM
   Multi Lumen - [**2165-7-18**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: with Surgery, Gyn Onc and family
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-07-20 07:28:00 Physician Resident Progress Note
Chief Complaint: ovairan cancer / SBO, s/p surgery on POD #2
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2165-7-19**] 04:09 PM
   extubated
   pain control switched to dilaudid pca, more comfortable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-7-19**] 11:00 PM
   Ampicillin - [**2165-7-20**] 12:15 AM
   Metronidazole - [**2165-7-20**] 02:15 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2165-7-19**] 05:00 PM
   Fentanyl - [**2165-7-19**] 06:30 PM
   Hydromorphone (Dilaudid) - [**2165-7-19**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2165-7-20**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation, no flatus or BM
   Flowsheet Data as of  [**2165-7-20**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98
   HR: 125 (117 - 132) bpm
   BP: 93/52(68) {93/52(68) - 123/69(88)} mmHg
   RR: 20 (17 - 37) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 77.8 kg
   Height: 63 Inch
    CVP: 4 (3 - 9)mmHg
   Total In:
                                                                  5,848 mL
                                                                    700 mL
   PO:
   TF:
   IVF:
                                                                  5,597 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                    790 mL
   Urine:
                                                                  1,895 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,953 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 356 (286 - 356) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: 7.39/48/76.[**Numeric Identifier 128**]/27/2
   Ve: 9 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: along incision
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   9.6 g/dL
   153 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.6 mEq/L
   8 mg/dL
   105 mEq/L
   135 mEq/L
   28.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2165-7-19**]  04:11 AM
                             [**2165-7-19**]  04:55 AM
                             [**2165-7-19**]  09:28 AM
                             [**2165-7-19**]  09:44 AM
                             [**2165-7-19**]  12:44 PM
                             [**2165-7-19**]  05:30 PM
                             [**2165-7-19**]  06:05 PM
                             [**2165-7-19**]  11:35 PM
                             [**2165-7-20**]  04:40 AM
                             [**2165-7-20**]  04:55 AM
   WBC
   8.6
   10.0
   9.5
   10.7
   Hct
   36
   33.4
   33.4
   31.0
   28.5
   28.2
   Plt
   [**Telephone/Fax (3) 3162**]19
   Cr
   0.4
   0.4
   0.5
   0.4
   TCO2
   20
   22
   24
   26
   30
   Glucose
   121
   119
   183
   153
   Other labs: PT / PTT / INR:14.2/28.2/1.2, Differential-Neuts:87.7 %,
   Band:5.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.2 %, D-dimer:2834 ng/mL,
   Lactic Acid:0.8 mmol/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Microbiology: no + culture data
   Assessment and Plan
   44 yo W with new diagnosis of advanced ovarian ca with peritoneal
   seeding admitted with small bowel obstruction now s/p tumor debulking,
   TAH BSO and partial resection of small bowel and sigmoid, POD 2, now
   with persistent tachycardia overnight.
   Tachycardia: Sinus tachycardia.  Patient in pain, not responding to
   fluid boluses.  Normotensive.  CTA negative for PE, however clearly
   this does not rule out small PE.
   -continue pain control and DVT ppx
   -in addition patient spiked temp and started on abx, possibly
   tachycardia due to infection
   -LENI to r/o DVT to help w/ PE diagnosis
   Fevers: afebrile, started on amp / cipro / flagyl for empiric coverage
   -no positive culture data
   -continue abx
   Respiratory: RA sat 88%, likely due to atelectasis and splinting
   -supplemental O2 as needed
   -recently extubated
   -CXR
   -incentive spirometry
   -x ray w/ worsening atelectasis and bilateral pleural effusions,
   moderate
   GI: NPO for now, NG tube to low suction
   -d/w surgery intermittent suction and timing for NGT pull
   -for now NPO and TPN
   Adenocarcinoma: Extensive disease s/p debulking
   - F/U gyn onc recs
   - F/U surgery recs
   Pain: continue dilaudid PCA, pain well controlled per patient
   FEN: NPO, replete lytes PRN; IVFs; nutrition recs for TPN
   ACCESS: A-line, R IJ (pull A line prior to transfer), send to floor w/
   central line, plan for PICC plcmt
   Contact: Family [**Telephone/Fax (1) 3133**]
   CODE: FULL
   DISPO: call out to floor
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-7-19**] 06:00 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-7-18**] 07:25 PM
   Arterial Line - [**2165-7-18**] 08:00 PM
   Multi Lumen - [**2165-7-18**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2165-07-20 10:36:00 Physician Attending Progress Note
Chief Complaint: SBO
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women previously healthy, presented with SBO, found to have
   ovarian CA with peritoneal seeding, s/p small bowel resection.  POD#2.
   Was extubated yesterday.  Has been complaining of pain.  Having sinus
   tachycardia to 120-130s.  Had negative CTA.  RA sat 89%.  No CP, no
   cough, no SOB.  [**8-15**] Abdominal pain.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2165-7-19**] 04:09 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-7-19**] 11:00 PM
   Metronidazole - [**2165-7-20**] 02:15 AM
   Ampicillin - [**2165-7-20**] 08:04 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2165-7-19**] 05:00 PM
   Fentanyl - [**2165-7-19**] 06:30 PM
   Hydromorphone (Dilaudid) - [**2165-7-19**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2165-7-20**] 12:16 AM
   Other medications:
   PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Pain: [**8-13**] Severe
   Pain location: abdomin
   Flowsheet Data as of  [**2165-7-20**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 129 (117 - 132) bpm
   BP: 106/58(76) {93/52(68) - 123/69(88)} mmHg
   RR: 24 (17 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 77.8 kg
   Height: 63 Inch
   CVP: 4 (3 - 6)mmHg
   Total In:
                                                                  5,848 mL
                                                                    982 mL
   PO:
   TF:
   IVF:
                                                                  5,597 mL
                                                                    555 mL
   Blood products:
   Total out:
                                                                  2,895 mL
                                                                  1,320 mL
   Urine:
                                                                  1,895 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,953 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 356 (318 - 356) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.39/48/76.[**Numeric Identifier 128**]/27/2
   Ve: 9 L/min
   PaO2 / FiO2: 217
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Tender: along incision
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   219 K/uL
   153 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.6 mEq/L
   8 mg/dL
   105 mEq/L
   135 mEq/L
   28.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2165-7-19**]  04:11 AM
                             [**2165-7-19**]  04:55 AM
                             [**2165-7-19**]  09:28 AM
                             [**2165-7-19**]  09:44 AM
                             [**2165-7-19**]  12:44 PM
                             [**2165-7-19**]  05:30 PM
                             [**2165-7-19**]  06:05 PM
                             [**2165-7-19**]  11:35 PM
                             [**2165-7-20**]  04:40 AM
                             [**2165-7-20**]  04:55 AM
   WBC
   8.6
   10.0
   9.5
   10.7
   Hct
   36
   33.4
   33.4
   31.0
   28.5
   28.2
   Plt
   [**Telephone/Fax (3) 3162**]19
   Cr
   0.4
   0.4
   0.5
   0.4
   TCO2
   20
   22
   24
   26
   30
   Glucose
   121
   119
   183
   153
   Other labs: PT / PTT / INR:14.2/28.2/1.2, Differential-Neuts:87.7 %,
   Band:5.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.2 %, D-dimer:2834 ng/mL,
   Lactic Acid:0.8 mmol/L, Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Tachycardia:  Likely multifactorial including pain, may also be
   hypvolemia give relatively low CVP.  PE unlikely given negative CTA.
   Can get LENI to r/o clots in LE.
   Hypoxemia:  Has b/l pleural effusions and atelectasis which are likely
   contributing to hypoxemia.  In additional is having shallow breaths due
   to abdmoninal pain that
   likely is contributing to atelectasis.
   Fevers:  on Amp/Cipro/Flagyl due to cover abdominal source.  Fluid
   collection around wound.
   Nutrition: on TPN, NPO
   Try to get OOB to chair and increase basal PCA rate for pain.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-7-19**] 06:00 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2165-7-18**] 07:25 PM
   Arterial Line - [**2165-7-18**] 08:00 PM
   Multi Lumen - [**2165-7-18**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2165-07-21 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   observed for mild hypoxia and tachycardia
   stable o/n
   call out this am
   No complaints this AM. Denied abdominal pain. Not passing flatus. No
   abdominal pain.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-7-21**] 12:00 AM
   Ampicillin - [**2165-7-21**] 01:32 AM
   Metronidazole - [**2165-7-21**] 02:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-7-21**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-21**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 115 (113 - 139) bpm
   BP: 95/55(74) {95/52(69) - 141/75(95)} mmHg
   RR: 23 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 77.8 kg
   Height: 63 Inch
    CVP: 10 (4 - 15)mmHg
   Total In:
                                                                  2,583 mL
                                                                    909 mL
   PO:
   TF:
   IVF:
                                                                  1,582 mL
                                                                    599 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                  1,290 mL
   Urine:
                                                                  4,330 mL
                                                                  1,290 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,997 mL
                                                                   -381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), iii/vi systolic murmur at
   RUSB, nonradiating
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Vertical incision:
   C/D/I with staples
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   211 K/uL
   8.7 g/dL
   138 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.1 mEq/L
   8 mg/dL
   103 mEq/L
   138 mEq/L
   26.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2165-7-19**]  04:55 AM
                             [**2165-7-19**]  09:28 AM
                             [**2165-7-19**]  09:44 AM
                             [**2165-7-19**]  12:44 PM
                             [**2165-7-19**]  05:30 PM
                             [**2165-7-19**]  06:05 PM
                             [**2165-7-19**]  11:35 PM
                             [**2165-7-20**]  04:40 AM
                             [**2165-7-20**]  04:55 AM
                             [**2165-7-21**]  05:28 AM
   WBC
   8.6
   10.0
   9.5
   10.7
   10.5
   Hct
   33.4
   33.4
   31.0
   28.5
   28.2
   26.7
   Plt
   [**Telephone/Fax (3) 3162**]19
   211
   Cr
   0.4
   0.4
   0.5
   0.4
   0.3
   TCO2
   22
   24
   26
   30
   Glucose
   121
   119
   183
   153
   138
   Other labs: PT / PTT / INR:14.4/31.7/1.3, Differential-Neuts:87.7 %,
   Band:5.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.2 %, D-dimer:2834 ng/mL,
   Lactic Acid:0.8 mmol/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   44 yo W with new diagnosis of advanced ovarian ca with peritoneal
   seeding admitted with small bowel obstruction now s/p tumor debulking,
   TAH BSO and partial resection of small bowel and sigmoid, POD 2, now
   with persistent tachycardia overnight.
   Tachycardia: Sinus tachycardia.  Patient in pain, not responding to
   fluid boluses.  Normotensive.  CTA negative for PE, however clearly
   this does not rule out small PE.
   -continue pain control and DVT ppx
   -in addition patient spiked temp and started on abx, possibly
   tachycardia due to infection
   -LENI to r/o DVT to help w/ PE diagnosis
   Fevers: afebrile, started on amp / cipro / flagyl for empiric coverage
   -no positive culture data
   -continue abx
   Respiratory: RA sat 88% yesterday, likely due to splinting. Satting 98
   % on 2L nasal cannula
   -supplemental O2 as needed
   -recently extubated
   -CXR
   -incentive spirometry
   -x ray w/ worsening atelectasis and bilateral pleural effusions,
   moderate
   GI: NPO for now, NG tube to low suction
   -d/w surgery intermittent suction and timing for NGT pull
   -for now NPO and TPN
   Adenocarcinoma: Extensive disease s/p debulking
   - F/U gyn onc recs
   - F/U surgery recs
   Pain: continue dilaudid PCA, pain well controlled per patient
   FEN: NPO, replete lytes PRN; IVFs; nutrition recs for TPN
   ACCESS: A-line, R IJ (pull A line prior to transfer), send to floor w/
   central line, plan for PICC plcmt
   Contact: Family [**Telephone/Fax (1) 3133**]
   CODE: FULL
   DISPO: call out to floor
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-7-20**] 05:51 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-7-18**] 07:25 PM
   Arterial Line - [**2165-7-18**] 08:00 PM
   Multi Lumen - [**2165-7-18**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-07-21 11:44:00 Physician Attending Progress Note
Chief Complaint: s/p abdominal surgery for ovarian CA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yo women s/p abdominal surgery for ovarian CA, extubated post-op.
   Recently with tachycardia and pain control issues.
   24 Hour Events:
 CALLED OUT
   Tachycardia slightly improved overnight.
   Ambulated without SOB.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2165-7-21**] 12:00 AM
   Ampicillin - [**2165-7-21**] 08:06 AM
   Metronidazole - [**2165-7-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-7-21**] 08:06 AM
   Other medications:
   hydromorphone PCA 1mg/hour basal
   protonix
   SSI
   TPN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2165-7-21**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 115 (111 - 139) bpm
   BP: 97/61(69) {97/61(69) - 101/63(69)} mmHg
   RR: 22 (9 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 77.8 kg
   Height: 63 Inch
   CVP: 7 (4 - 15)mmHg
   Total In:
                                                                  2,583 mL
                                                                  1,359 mL
   PO:
   TF:
   IVF:
                                                                  1,582 mL
                                                                    880 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                  2,250 mL
   Urine:
                                                                  4,330 mL
                                                                  2,250 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,997 mL
                                                                   -891 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, fluctuance around
   wound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): times 3 , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   211 K/uL
   138 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.1 mEq/L
   8 mg/dL
   103 mEq/L
   138 mEq/L
   26.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2165-7-19**]  04:55 AM
                             [**2165-7-19**]  09:28 AM
                             [**2165-7-19**]  09:44 AM
                             [**2165-7-19**]  12:44 PM
                             [**2165-7-19**]  05:30 PM
                             [**2165-7-19**]  06:05 PM
                             [**2165-7-19**]  11:35 PM
                             [**2165-7-20**]  04:40 AM
                             [**2165-7-20**]  04:55 AM
                             [**2165-7-21**]  05:28 AM
   WBC
   8.6
   10.0
   9.5
   10.7
   10.5
   Hct
   33.4
   33.4
   31.0
   28.5
   28.2
   26.7
   Plt
   [**Telephone/Fax (3) 3162**]19
   211
   Cr
   0.4
   0.4
   0.5
   0.4
   0.3
   TCO2
   22
   24
   26
   30
   Glucose
   121
   119
   183
   153
   138
   Other labs: PT / PTT / INR:14.4/31.7/1.3, Differential-Neuts:87.7 %,
   Band:5.0 %, Lymph:8.0 %, Mono:4.0 %, Eos:0.2 %, D-dimer:2834 ng/mL,
   Lactic Acid:0.8 mmol/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: LENIS negative
   Assessment and Plan
   Tachycardia:  Improved today.  Likely due to pain and fluid status.
   Given negative CTA and negative LENIS, PE is unlikely.
   Fevers:  afebrile
   Hypoxemia:  stil requiring a small amount of oxygen, likely due to
   atelectasis and effusions.  Should improve with ambulation and
   incentive spirometry.
   GI: NPO for now.
   Ovarian AdenoCA: S/P debulking,
   Pain control:  Continue PCA.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-7-20**] 05:51 PM 41.[**Telephone/Fax (5) 3163**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-7-18**] 07:25 PM
   Multi Lumen - [**2165-7-18**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes